US08377968B2
Synthesis of N-((1-(2-pivalamidoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (Compound 60)
A solution of N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (70 mg, 0.18 mmol) and TEA (123 μL, 0.881 mmol) in a 1:1 mixture of CH2Cl2:DMF (2 mL) was treated with pivaloyl chloride (42 mg, 0.35 mmol). The reaction mixture was stirred overnight then transferred to a test tube containing saturated aqueous NaHCO3 (4 mL) and EtOAc (4 mL). The biphasic mixture was mixed vigorously and allowed to separate for 15 min. After separation, the mixture was cooled to −20° C. until the aqueous layer was frozen. The organic layer was then poured off and the solvent was removed under reduced pressure at 50° C. The resulting residue was purified by HiTOPs.

reactant | N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | 0.18 mmol, 70 mg | NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H21F6N3O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | pivaloyl chloride | 0.35 mmol, 42 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-((1-(2-pivalamidoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | C(C(C)(C)C)(=O)NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C22H29F6N3O2
